US07977331B1
To a solution of methyl 2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1H-indole-6-carboxylate (16.9 g, 37.3 mmol) in N,N-dimethylformamide (120 ml) was added sodium hydride (2.1 g, 52.2 mmol) under ice-cooling, and the mixture was stirred for 20 min. To the reaction mixture was added 2-(2-bromoethoxy)tetrahydro-2H-pyran (8.5 ml, 55.9 mmol), and the mixture was stirred at room temperature for 4 hr. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure to give methyl 2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1-[2-(tetrahydropyran-2-yloxy)ethyl]-1H-indole-6-carboxylate as a crude product. The obtained compound was used in Step 5 without further purification.

reactant | methyl 2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 37.3 mmol, 16.9 g | COCOC1=C(C=CC(=C1)OCOC)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C26H31NO6
reactant | sodium hydride | 52.2 mmol, 2.1 g | [H-].[Na+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 55.9 mmol, 8.5 ml | BrCCOC1OCCCC1 | C7H13BrO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | methyl 2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1-[2-(tetrahydropyran-2-yloxy)ethyl]-1H-indole-6-carboxylate | COCOC1=C(C=CC(=C1)OCOC)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCOC1OCCCC1 | C33H43NO8
